US04215044
A solution of 27.59 g (0.09 mol) of β-ethoxy-4-isobutyl-α-methyl-β-(trimethylsiloxy)styrene in 250 ml of CFCl3 was cooled to -70° C. and 9.4 g (0.09 mol) of trifluoromethyl hypofluorite were passed into the solution over a period of 4 hours. The reaction mixture then was warmed to room temperature and distilled to give 19.3 g (85% yield) of ethyl α-fluoro-4-isobutyl-α-methylphenylacetate as a colorless liquid; bp 88°-89° C. (0.4 mm); 19F NMR (CDCl3) δ 150.9 ppm (q, J=22.5 Hz); 1H NMR (CDCl3) α 0.91 ppm (d, J=6 Hz, 6H), 1.22 ppm (t, J=7 Hz, 3H), 1.88 ppm (m, 1H), 1.91 ppm (d, J=22.5 Hz, 3H), 2.48 ppm (d, J=6 Hz, 2H), 4.21 ppm (q, J= 7 Hz, 2H) and 7.0-7.6 ppm (m, 4H). Anal. Calcd. for C15H21FO2 : C, 71.40; H, 8.39; F, 7.53; Found: C, 71.63; H, 8.35; F, 7.43.

reactant | β-ethoxy-4-isobutyl-α-methyl-β-(trimethylsiloxy)styrene | 0.09 mol, 27.59 g | C(C)OC(=C(C1=CC=C(C=C1)CC(C)C)C)O[Si](C)(C)C | C18H30O2Si
reactant | trifluoromethyl hypofluorite | 0.09 mol, 9.4 g | FOC(F)(F)F | CF4O
solvent | CFCl3 | 250 ml | C(F)(Cl)(Cl)Cl | CCl3F
product | ethyl α-fluoro-4-isobutyl-α-methylphenylacetate | 19.3 g, 85% yield | FC(C(=O)OCC)(C)C1=CC=C(C=C1)CC(C)C | C15H21FO2
